US05116844
(i) 1-(2,4-Difluorophenyl)-2-(pyridazin-3-yl)ethanone
Treatment of 3-methylpyridazine (4.70 g) with lithium diisopropylamide (0.05 mole) in dry tetrahydrofuran followed by methyl 2,4-difluorobenzoate (8.60 g) according to the method of Example 11(i) gave the title compound, (3.40 g), m.p. 115.5°-117.5° (from ether).

reactant | 3-methylpyridazine | 4.70 g | CC=1N=NC=CC1 | C5H6N2
reactant | lithium diisopropylamide | 0.05 mole | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl 2,4-difluorobenzoate | 8.60 g | FC1=C(C(=O)OC)C=CC(=C1)F | C8H6F2O2
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(2,4-Difluorophenyl)-2-(pyridazin-3-yl)ethanone | 3.40 g | FC1=C(C=CC(=C1)F)C(CC=1N=NC=CC1)=O | C12H8F2N2O
